US05284841
4-(2-(2H-2-trityltetrazol-5-yl)-1-pyrrolyl)-benzyl bromide is prepared as described in EP 0 480 204 A1 preparation 1 and 8, and as described in EXAMPLE 10. To this end 1-(4-methylphenyl)-2-cyanopyrrole is reacted with tributyltin azide to give 4-(2-(1H-tetrazol-5-yl)-1-pyrrolyl)-methylbenzene, which is protected by reaction with triphenylmethyl chloride. The benzylic methyl group of (2-(2H-2-trityltetrazol-5-yl)-1-pyrrolyl)-methylbenzene is then converted to the benzyl bromide with N-bromosuccinimide. An analog with a bromo substituent in the pyrrole ring is prepared from the same starting material 1-(4-methylphenyl)-2-cyanopyrrole by reaction with N-bromosuccinimide at room temperature to give 1-(4-methylphenyl)-4-bromo-2-cyanopyrrole. This is further reacted by analogy to the unsubstituted compound.

reactant | 1-(4-methylphenyl)-2-cyanopyrrole | CC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H10N2
reactant | tributyltin azide | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 4-(2-(1H-tetrazol-5-yl)-1-pyrrolyl)-methylbenzene | N1N=NN=C1C=1N(C=CC1)C1=CC=C(C=C1)C | C12H11N5
